US06380249B1
2,4-dioxo-4-[3-(1,2,3,4-tetrahydronaphthalen-1-yl)-phenyl]butyric acid (isomers A and B) (G1 and G2)
Isomer B: As described above, 0.048 g (0.19 mmol) of 1-[3-(1,2,3,4-tetrahydronaphthalen-1-yl)-phenyl]-ethanone (isomer B), 0.056 g (0.38 mmol) diethyl oxalate, and 0.026 g (0.38 mmol) sodium ethoxide were reacted to give the title compound which was used without further purification.

reactant | 1-[3-(1,2,3,4-tetrahydronaphthalen-1-yl)-phenyl]-ethanone | 0.19 mmol, 0.048 g | C1(CCCC2=CC=CC=C12)C=1C=C(C=CC1)C(C)=O | C18H18O
reactant | diethyl oxalate | 0.38 mmol, 0.056 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethoxide | 0.38 mmol, 0.026 g | [O-]CC.[Na+]
product | 2,4-dioxo-4-[3-(1,2,3,4-tetrahydronaphthalen-1-yl)-phenyl]butyric acid | O=C(C(=O)O)CC(C1=CC(=CC=C1)C1CCCC2=CC=CC=C12)=O | C20H18O4
